US08071592B2
(d) 7-(Methyloxy)-1-(2-propen-1-yl)-2(1H)-quinolinone
A solution of 7-(methyloxy)-2(1H)-quinolinone (5 g, 0.029 mol) in DMF (70 ml) at 0° C. under N2 was added NaH (60% dispersion in oil; 2.5 g, 0.063 mol) stirred for 10 min, warmed to ambient temperature and stirred for a further 30 min. To this reaction mixture was added allyl iodide (3.13 ml, 0.034 mol) and stirred overnight. The reaction was quenched with water (20 ml) and concentrated. The product was obtained after column chromatography (gradient-5% MeOH in DCM) to yield 4.2 g (68%).

reactant | 7-(methyloxy)-2(1H)-quinolinone | 0.029 mol, 5 g | COC1=CC=C2C=CC(NC2=C1)=O | C10H9NO2
reactant | NaH | 0.063 mol, 2.5 g | [H-].[Na+]
reactant | allyl iodide | 0.034 mol, 3.13 ml | C(C=C)I | C3H5I
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 7-(Methyloxy)-1-(2-propen-1-yl)-2(1H)-quinolinone | COC1=CC=C2C=CC(N(C2=C1)CC=C)=O | C13H13NO2
